US20010022979A1
Chromium-Glutathione (Cr-GSH)
One gram (3.7 mmole) of chromium chloride (CrCl3) was dissolved in 40 ml of deionized water to get a green solution. 4.6 g (15 mmole) of glutathione (GSH) was dissolved in 40 ml of deionized water were added, the pH of the reaction mixture adjusted to 6, and the reaction mixture was stirred for 3 hours at 40° C. until the solution turned violet. The absorbance peaks for Cr-GSH are 410 and 550 nm.

reactant | chromium chloride | 3.7 mmole, One gram | [Cl-].[Cr+3].[Cl-].[Cl-]
reactant | glutathione | 15 mmole, 4.6 g | N[C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O | C10H17N3O6S
solvent | water | 40 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | Chromium Glutathione | [Cr].N[C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O | InChI=1S/C10H17N3O6S.Cr/c11-5(10(18)19)1-2-7(14)13-6(4-20)9(17)12-3-8(15)16;/h5-6,20H,1-4,11H2,(H,12,17)(H,13,14)(H,15,16)(H,18,19);/t5-,6-;/m0./s1
